US06908913B2
7-(Thiazol-5-yl)carbonylimidazo[5,1-b]thiazole (187 mg) was prepared in the same manner as in step a) of Synthesis Example 3, except that 265 mg of 7-iodoimidazo[5,1-b]thiazole and 119 mg of thiazole-5-aldehyde were used as the starting compounds.

reactant | 7-iodoimidazo[5,1-b]thiazole | 265 mg | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | thiazole-5-aldehyde | 119 mg | S1C=NC=C1C=O | C4H3NOS
product | 7-(Thiazol-5-yl)carbonylimidazo[5,1-b]thiazole | 187 mg | S1C=NC=C1C(=O)C=1N=CN2C1SC=C2 | C9H5N3OS2
